US07465736B2
N-[3-({4-[cyano(4-ethyl-1,3-thiazol-2(3H)-ylidene)methyl]pyrimidin-2-yl}amino)propyl]acetamide
To a solution of {2-[(3-aminopropyl)amino]pyrimidin-4-yl}(4-ethyl-1,3-thiazol-2(3H)-ylidene)acetonitrile (165 mg, 0.37 mmol) in DMA (3 mL) were added and Et3N (0.048 mL, 0.37 mmol) and acetyl chloride (0.04 mL, 0.46 mmol) at 0° C. The resulting solution was stirred at 0° C. for 3 h. The solvent was evaporated under reduced pressure (Genevac) affording the title compound as a crude yellow solid. HPLC (max plot) 92%. The solid was taken up in DCM and an excess TFA was added. The yellow precipitate formed after addition of ether was filtered off and washed with ether (×3) then dried under vacuum at 40° C. After purification by preparative HPLC then lyophilization, 148 mg of the title compound was obtained as a TFA salt (yellow powder, Y=87.3%)

reactant | {2-[(3-aminopropyl)amino]pyrimidin-4-yl}(4-ethyl-1,3-thiazol-2(3H)-ylidene)acetonitrile | 0.37 mmol, 165 mg | NCCCNC1=NC=CC(=N1)C(C#N)=C1SC=C(N1)CC | C14H18N6S
reactant | Et3N | 0.37 mmol, 0.048 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 0.46 mmol, 0.04 mL | C(C)(=O)Cl | C2H3ClO
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | N-[3-({4-[cyano(4-ethyl-1,3-thiazol-2(3H)-ylidene)methyl]pyrimidin-2-yl}amino)propyl]acetamide | C(#N)C(C1=NC(=NC=C1)NCCCNC(C)=O)=C1SC=C(N1)CC | C16H20N6OS
